US07033765B1
4-aminobenzoic acid (0.145 g, 1.06 mmol) and 1-bromo-3,6,9,12-tetraoxatetradecyl methanethiosulfonate (0.42 g, 1.06 mmol) were dissolved in dry DMF (30 mL). Cesium carbonate (0.385 mg, 1.1 mmol) was added and the mixture was stirred at room temperature for 3 days. The solvent was evaporated. The residue was pied by column chromatography on SiO2. Elution was with dichloromethane/methanol (100:3) and after evaporation, 16-(4-aminophenyl)-16-oxo-3,6,9,12,1 5-pentaoxahexadecyl methanethiosulfonate (0.120 g, 0.27 mmol; 25% yield) remained as a pale yellow oil. 1H NMR (500 MHz, (CD3)2SO) δ 7.62 (d, J=8.7 Hz, 2H), 6.55 (d, J=8.7 Hz, 2H), 5.94 (s, br., 2H), 4.25 (t, J=4.8 Hz, 2H), 3.70-3.67 (m, 4H), 3.57-3.55 (m, 2H), 3.54-3.47 (m, 13H), 3.36 (t, J=5.9 Hz, 2H).

reactant | 4-aminobenzoic acid | 1.06 mmol, 0.145 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 1-bromo-3,6,9,12-tetraoxatetradecyl methanethiosulfonate | 1.06 mmol, 0.42 g | CS(=O)(OC(COCCOCCOCCOCC)Br)=S | C11H23BrO6S2
reactant | Cesium carbonate | 1.1 mmol, 0.385 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 16-(4-aminophenyl)-16-oxo-3,6,9,12,1 5-pentaoxahexadecyl methanethiosulfonate | 0.27 mmol, 0.120 g, 25% yield | CS(=O)(OCCOCCOCCOCCOCCOC(=O)C1=CC=C(C=C1)N)=S | C18H29NO8S2
